US07361659B2
To a stirred solution of N,N-dimethylethylenediamine (1.04 g, 11.8 mmol) in tetrahydrofurane (14 ml) was added at 0° C. (ice water bath) commercially available 2-acetamido-4-methylthiazole-5-sulfonyl chloride (1.0 g, 3.93 mmol) and triethylamine (0.6 ml, 4 mmol). The light yellow suspension was stirred at room temperature for 17 h, and evaporated. The crude product was further purified by column chromatography on silica gel (dichloromethane/MeOH/NH4OH 80:10:1) and subsequent crystallization (dichloromethane/hexane) to yield 2-acetamido-4-methyl-thiazole-5-sulfonic acid (2-dimethylamino-ethyl)-amide (1.07 g, 89%) as a white solid. MS (ISP) 305.1 [(M−H)−]; mp 143° C.

reactant | N,N-dimethylethylenediamine | 11.8 mmol, 1.04 g | CN(CCN)C | C4H12N2
reactant | 2-acetamido-4-methylthiazole-5-sulfonyl chloride | 3.93 mmol, 1.0 g | C(C)(=O)NC=1SC(=C(N1)C)S(=O)(=O)Cl | C6H7ClN2O3S2
reactant | triethylamine | 4 mmol, 0.6 ml | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofurane | 14 ml | O1CCCC1 | C4H8O
product | 2-acetamido-4-methyl-thiazole-5-sulfonic acid (2-dimethylamino-ethyl)-amide | 1.07 g, 89% | CN(CCNS(=O)(=O)C1=C(N=C(S1)NC(C)=O)C)C | C10H18N4O3S2
